US09421532B2
A 20-mL eggplant flask equipped with a three-way cock and a magnetic stirrer was heat dried while pumping to a vacuum of 5 Pa before its interior was purged with argon atmosphere. Into the flask, iron complex A (1.0 mg, 0.002 mmol) was admitted as catalyst and dissolved in toluene (0.5 mL). To the solution, 1,2-bis(dimethylsilyl)benzene (475 μL) was added through a syringe, and N,N-dimethyl-4-methoxybenzamide (179 mg, 1.0 mmol) was added. The solution was stirred at 100° C. for 30 minutes. Toluene was distilled off in vacuum. The crude product was purified by silica gel-packed column chromatography using hexane/ethyl acetate (10/1) as developing solvent, obtaining N,N-dimethyl-4-methoxybenzylamine (159 mg, 0.96 mmol, 96%). The results are shown as Entry 1 in Table 5. The resulting amine was identified for geometry by 1H and 13C-NMR spectroscopy and IR spectroscopy.

reactant | 1,2-bis(dimethylsilyl)benzene | 475 μL | C[SiH](C1=C(C=CC=C1)[SiH](C)C)C | C10H18Si2
reactant | N,N-dimethyl-4-methoxybenzamide | 1.0 mmol, 179 mg | CN(C(C1=CC=C(C=C1)OC)=O)C | C10H13NO2
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-4-methoxybenzylamine | 0.96 mmol, 159 mg, 96% | CN(C)CC1=CC=C(C=C1)OC | C10H15NO
